US06642251B1
A suspension of 8 g [6-methoxy-3-(2-oxo-1,2-dihydroindol-3-ylidene)indan-1-yl]-acetic acid in 60 ml of water was added to 0.9 g of sodium hydroxide in 10 ml of water. The mixture was stirred at room temperature for 30 minutes and filtered. The filtrate was frozen and lyophilized to give 8 g of [6-methoxy-3-(2-oxo-1,2-dihydroindol-3-ylidene)-indan-1-yl]-acetic acid sodium salt.

reactant | [6-methoxy-3-(2-oxo-1,2-dihydroindol-3-ylidene)indan-1-yl]-acetic acid | 8 g | COC1=CC=C2C(CC(C2=C1)CC(=O)O)=C1C(NC2=CC=CC=C12)=O | C20H17NO4
reactant | sodium hydroxide | 0.9 g | [OH-].[Na+]
solvent | water | 60 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | [6-methoxy-3-(2-oxo-1,2-dihydroindol-3-ylidene)-indan-1-yl]-acetic acid sodium salt | 8 g | [Na+].COC1=CC=C2C(CC(C2=C1)CC(=O)[O-])=C1C(NC2=CC=CC=C12)=O | InChI=1S/C20H17NO4.Na/c1-25-12-6-7-13-15(10-12)11(9-18(22)23)8-16(13)19-14-4-2-3-5-17(14)21-20(19)24;/h2-7,10-11H,8-9H2,1H3,(H,21,24)(H,22,23);/q;+1/p-1
